US07723352B2
A suspension of 11-(3-fluorophenyl)-9-methoxy-3,4-dihydro-2H-pyrido[1,2-b]isoquinoline-1,6-dione in 2 ml of THF and 2 mL of TMEDA was cooled to 0 C and treated lithium diisopropylamide solution (Aldrich, 2 M, 0.445 mL). After stirring for 1 h, a solution of Tf2NPh in 2 ml THF/2 ml TMEDA was added via cannula. The reaction was warmed to room temp and stirred for 2 h, then partitioned between CH2Cl2 and pH 7 buffer. The aqueous solution was extracted once more with CH2Cl2. The combined organic solutions were dried (Na2SO4) and concentrated, then purified by flash chromatography (40 g silica, 30-90% EtOAc/hexanes) to give 57 mg of 11-(3-fluorophenyl)-9-methoxy-6-oxo-3,6-dihydro-4H-pyrido[1,2-b]isoquinolin-1-yl trifluoromethanesulfonate.

reactant | 11-(3-fluorophenyl)-9-methoxy-3,4-dihydro-2H-pyrido[1,2-b]isoquinoline-1,6-dione | FC=1C=C(C=CC1)C1=C2N(C(C=3C=CC(=CC13)OC)=O)CCCC2=O | C20H16FNO3
reactant | lithium diisopropylamide | 2 M, 0.445 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | Tf2NPh | N(S(=O)(=O)C(F)(F)F)(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1 | C8H5F6NO4S2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | TMEDA | 2 mL | CN(C)CCN(C)C | C6H16N2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 11-(3-fluorophenyl)-9-methoxy-6-oxo-3,6-dihydro-4H-pyrido[1,2-b]isoquinolin-1-yl trifluoromethanesulfonate | 57 mg | FC(S(=O)(=O)OC1=CCCN2C(C=3C=CC(=CC3C(=C21)C2=CC(=CC=C2)F)OC)=O)(F)F | C21H15F4NO5S
